US08383644B2
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester
To a solution of (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (0.72 g) in THF:MeOH (3:7, 10 mL) solution, 2 N LiOH solution (4 mL) was added and 0° C., and the resulting reaction mixture was stirred at room temperature for 10 hours. After completion of the reaction, 1N HCl (8 mL) was added to neutralize the base, extracted with ethyl acetate, organic layer was washed with water, brine, dried over sodium sulfate, and the solvent was removed under reduced pressure to afford the product (0.68 g). LCMS (m/z): 587.

reactant | (3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 0.72 g | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO7
reactant | LiOH | 2 N, 4 mL | [Li+].[OH-]
reactant | HCl | 1N, 8 mL | Cl | ClH
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 0.68 g | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
